US05036074
starting from 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone and butyltriphenylphosphonium bromide there is obtained 3-(α-butylidene-2,4-dichloro-β-methyl-phenethyl)-pyridine.

reactant | 2-(2,4-dichlorophenyl)-1-(3-pyridyl)-1-propanone | ClC1=C(C=CC(=C1)Cl)C(C(=O)C=1C=NC=CC1)C | C14H11Cl2NO
catalyst | butyltriphenylphosphonium bromide | [Br-].C(CCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(α-butylidene-2,4-dichloro-β-methyl-phenethyl)-pyridine | C(CCC)=C(C(C1=C(C=C(C=C1)Cl)Cl)C)C=1C=NC=CC1 | C18H19Cl2N
